US20010011090A1
A mixture of 1-tert-butoxycarbonylpiperidine-4-carboxylic acid (198 mg), 4-[3,5-bis(trifluoromethyl)-1H-pyrazol-1-yl)aniline (206 mg), WSCD hydrochloride (172 mg) and THF (3 ml) was stirred overnight at room temperature. After adding ethyl acetate, the reaction solution was washed with water, saturated sodium bicarbonate aqueous solution, 1 N hydrochloric acid and saturated brine in that order. The organic layer was dried over anhydrous sodium sulfate and then concentrated under a reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate= 7:1 - 5:1) to give tert-butyl 4-[4-[3,5-bis(trifluoromethyl)-1H-pyrazol-1-yl] phenylaminocarbonyl]piperidine-1-carboxylate (279 mg) as a colorless amorphous solid. 4 N Hydrochloric acid ethyl acetate solution (2.60 ml) was added to a mixture of this solid (263 mg) and ethyl acetate (2.6 ml), followed by stirring at room temperature for 2 hours and 45 minutes. The reaction solution was concentrated under a reduced pressure, diethyl ether was added to the thus obtained residue, and the mixture was concentrated under a reduced pressure. By recrystallizing the resulting residue from a mixed solvent of ethyl acetate and n-hexane, [4′-[ 3,5-bis(trifluoromethyl)-1H-pyrazol-1-yl]piperidine-4-carboxyanilide hydrochloride (201 mg) was obtained as colorless powder crystals.

reactant | 1-tert-butoxycarbonylpiperidine-4-carboxylic acid | 198 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | 4-[3,5-bis(trifluoromethyl)-1H-pyrazol-1-yl)aniline | 206 mg | FC(C1=NN(C(=C1)C(F)(F)F)C1=CC=C(N)C=C1)(F)F | C11H7F6N3
reactant | hydrochloride | 172 mg | Cl | ClH
reactant | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-[4-[3,5-bis(trifluoromethyl)-1H-pyrazol-1-yl] phenylaminocarbonyl]piperidine-1-carboxylate | 279 mg | FC(C1=NN(C(=C1)C(F)(F)F)C1=CC=C(C=C1)NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C22H24F6N4O3
